US08809342B2
A solution of 4-bromoaniline (20 g, 116 mmol), 4-(trifluoromethyl)phenylboronic acid (15 g, 79 mmol), potassium carbonate (36.3 g, 263 mmol), and palladium(II) acetate (946 mg, 4.21 mmol) in 1,2-dimethoxyethane (80 mL) and water (80 mL) was stirred at 30° C. overnight. The reaction was then heated to 50° C. for 7 hours. The reaction was filtered through Celite and extracted with ethyl acetate (3×200 mL). The combined organics were washed with water and brine, dried over sodium sulfate, filtered and concentrated. Purification by column chromatography (0.5-1.7% petroleum ether/ethyl acetate) gave 4′-(trifluoromethyl)biphenyl-4-amine (10 g, 40%) as an off white solid. 1H NMR (400 MHz, (CD3)2SO, δ): 7.73-7.82 (m, 4H), 7.55 (dd, 2H), 6.72 (d, 2H), 5.47 (s, 2H). MS (M+1): 238.2.

reactant | 4-bromoaniline | 116 mmol, 20 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | 4-(trifluoromethyl)phenylboronic acid | 79 mmol, 15 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | potassium carbonate | 263 mmol, 36.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dimethoxyethane | 80 mL | COCCOC | C4H10O2
solvent | water | 80 mL | O | H2O
catalyst | palladium(II) acetate | 4.21 mmol, 946 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4′-(trifluoromethyl)biphenyl-4-amine | 10 g, 40% | FC(C1=CC=C(C=C1)C1=CC=C(C=C1)N)(F)F | C13H10F3N
